US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-(2-furylmethylimino)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 2.55 g of 1-(2-furylmethyl)-3-methylthiourea were reacted according to the prescription of Example 23 and the end product was precipitated by adding 100 ml of diethyl ether. Colorless crystalline solid body: melting point: 168° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-(2-furylmethyl)-3-methylthiourea | 2.55 g | O1C(=CC=C1)CNC(=S)NC | C7H10N2OS
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-(2-furylmethylimino)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC=1OC=CC1)C)O)S(N)(=O)=O | InChI=1S/C15H16ClN3O4S2.BrH/c1-19-14(18-8-11-3-2-6-23-11)24-9-15(19,20)10-4-5-12(16)13(7-10)25(17,21)22;/h2-7,20H,8-9H2,1H3,(H2,17,21,22);1H
